2117-01-03 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2117-1-2**] 03:14 PM
   - required high doses of insulin drip...[**First Name8 (NamePattern2) **] [**Last Name (un) **] attending, added on
   anti-GAD antibodies.  Thinks this may turn out to be type 2 DM given
   huge degree of insulin resistance.  Will come and assess amount of
   insulin he has required in AM, and give plan for transition to SQ
   insulin.
   - lipase 101, amylase normal
   - CE neg x 2
   - insulin drip titrated down to 10 this AM, last few FSGs in 130s.
   Allergies:
   Aspirin
   Hives;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   D5NS at 75 cc/hr
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-1-3**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 100 (90 - 130) bpm
   BP: 142/91(105) {96/55(45) - 161/91(105)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  9,845 mL
                                                                    808 mL
   PO:
                                                                  2,220 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  5,125 mL
                                                                    568 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                  1,100 mL
   Urine:
                                                                  1,100 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,745 mL
                                                                   -292 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.32/26/95.[**Numeric Identifier 218**]/18/-10
   Physical Examination
   Gen: A&Ox3, overweight gentleman in NAD, sitting in chair
   HEENT: NCAT, PERRL, MMM, OP clear, neck supple
   CV: Tachycardic and regular, no m/r/g
   PULM: CTAB
   Abd:  BS present. Soft, NT, ND.
   Extrem: No c/c/e, 2+ pulses throughout
   Labs / Radiology
   201 K/uL
   13.7 g/dL
   117 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.3 mEq/L
   6 mg/dL
   111 mEq/L
   137 mEq/L
   38.4 %
   9.0 K/uL
        [image002.jpg]
                            [**2117-1-2**]  06:55 AM
                            [**2117-1-2**]  09:41 AM
                            [**2117-1-2**]  01:40 PM
                            [**2117-1-2**]  03:10 PM
                            [**2117-1-2**]  06:47 PM
                            [**2117-1-2**]  11:55 PM
                            [**2117-1-3**]  03:57 AM
   WBC
   9.0
   Hct
   38.4
   Plt
   201
   Cr
   0.9
   0.7
   0.7
   0.7
   0.6
   TropT
   <0.01
   TCO2
   14
   Glucose
   233
   230
   205
   182
   155
   117
   Other labs: PT / PTT / INR:12.3/21.1/1.0, CK / CKMB /
   Troponin-T:48/2/<0.01, ALT / AST:22/11, Alk Phos / T Bili:76/0.3,
   Amylase / Lipase:53/101, Albumin:3.7 g/dL, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:1.6 mg/dL
   Urine Culture [**1-2**] pending
   No new Imaging
   Assessment and Plan
   Mr. [**Known lastname 12100**] is a 36 year old gentleman with no past medical history
   presenting with weakness and vomiting from DKA in the setting of newly
   diagnosed DM.
 DIABETIC KETOACIDOSIS (DKA)
   Likely from new onset DM.  Presented with profound acidosis with a AG
   of 28 on initial labs, now 8 after IV fluids and insulin drip
   overnight.
   - continue to taper down Insulin gtt with each hourly FS below 200
   - follow Q8H lyte checks
   - hourly blood sugar checks
   - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs regarding doing of SQ insulin; plan to switch to SQ
   insulin when on insulin drip at 3-4U/hr
   - monitor need for potassium and phos supplementation
   - will contact [**Name (NI) 303**] given need for diabetic teaching and outpatient
   f/u
   # Sinus tachycardia:  Likely due to dehydration, anxiety.
   - will conintue to monitor
   # Elevated BP:  No h/o HTN.  Patient is somewhat anxious at present.
   - monitor
   # Lack of PCP:  [**Name10 (NameIs) **] will need new PCP on discharge.
   - Social work consult ordered as patient with recent loss of health
   insurance.
   # FEN:  diabetic diet; IVF and electrolyte repletion as above
   - nutrition consult; patient will need extensive diet education
   ICU Care
   Nutrition: Diabetic Diet
   Glycemic Control:  Insulin gtt
   Lines:
   18 Gauge - [**2117-1-2**] 08:24 AM
   20 Gauge - [**2117-1-2**] 08:25 AM
   Arterial Line - [**2117-1-2**] 03:14 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: None
   VAP:
   Comments: Bowel regimen with senna and colace prn
   Communication:  Comments: With patient and with girlfriend [**Name (NI) 12102**]
   [**0-0-**]
   Code status: Full code
   Disposition: ICU for now, to floor once off insulin drip

2117-01-04 06:58:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: DKA
   24 Hour Events:
   - d/c'd aline as not drawing but now no access for blood draws and
   needed to do arterial sticks
   - changed to Lantus +s/s, and gtt d/c'd at 1430. BG in pm then in 100s
   but up to low 200s in evening, so started an HS sliding scale at
   decreased doses [**First Name8 (NamePattern2) **] [**Last Name (un) 303**]
   - required multiple repletions of electrolytes, K and Phos
 ARTERIAL LINE - STOP [**2117-1-3**] 10:04 AM
   Allergies:
   Aspirin
   Hives;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-1-4**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-1-4**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 97 (92 - 128) bpm
   BP: 125/77(88) {109/51(63) - 156/84(93)} mmHg
   RR: 18 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
                  Total In:
                                                                  4,643 mL
                                                                    600 mL
   PO:
                                                                  3,260 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  1,383 mL
   Blood products:
   Total out:
                                                                  3,675 mL
                                                                    700 mL
   Urine:
                                                                  3,675 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    968 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Gen: A&Ox3, overweight gentleman in NAD, sitting in chair
   HEENT: NCAT, PERRL, MMM, OP clear, neck supple
   CV: RRR, no m/r/g
   PULM: CTAB
   Abd:  BS present. Soft, NT, ND.
   Extrem: No c/c/e, 2+ pulses throughout
   Labs / Radiology
   180 K/uL
   13.4 g/dL
   167 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   3 mg/dL
   109 mEq/L
   140 mEq/L
   37.8 %
   7.1 K/uL
        [image002.jpg] AG=7
                            [**2117-1-2**]  06:55 AM
                            [**2117-1-2**]  09:41 AM
                            [**2117-1-2**]  01:40 PM
                            [**2117-1-2**]  03:10 PM
                            [**2117-1-2**]  06:47 PM
                            [**2117-1-2**]  11:55 PM
                            [**2117-1-3**]  03:57 AM
                            [**2117-1-3**]  12:00 PM
                            [**2117-1-4**]  12:04 AM
   WBC
   9.0
   7.1
   Hct
   38.4
   37.8
   Plt
   201
   180
   Cr
   0.9
   0.7
   0.7
   0.7
   0.6
   0.7
   0.7
   TropT
   <0.01
   TCO2
   14
   Glucose
   233
   230
   205
   182
   155
   117
   136
   167
   Other labs: PT / PTT / INR:12.3/21.1/1.0, CK / CKMB /
   Troponin-T:48/2/<0.01, ALT / AST:22/11, Alk Phos / T Bili:76/0.3,
   Amylase / Lipase:53/101, Albumin:3.7 g/dL, Ca++:8.9 mg/dL, Mg++:1.9
   mg/dL, PO4:2.9 mg/dL
   [**2117-1-2**] Urine culture negative
   No new imaging
   Assessment and Plan
   Mr. [**Known lastname 12100**] is a 36 year old gentleman with no past medical history
   presenting with weakness and vomiting from DKA in the setting of newly
   diagnosed DM.
 DIABETIC KETOACIDOSIS (DKA): Likely from new onset DM.  Presented
   with profound acidosis with an AG of 28 on initial labs, now 7 after IV
   fluids and insulin drip and now on basal dose and sliding scale.
   - follow [**Hospital1 7**] lyte checks
   - q4 hour blood sugar checks
   - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs, may need an increased basal dose of glargine
   - monitor need for potassium and phos supplementation
   - need for diabetic teaching and outpatient f/u
   # Sinus tachycardia:  Likely due to dehydration, anxiety, now with HR
   in the 90
   - will continue to monitor
   # Elevated BP:  No h/o HTN.  Patient is somewhat anxious at present.
   - monitor and likely will need outpatient follow-up
   # Lack of PCP:  [**Name10 (NameIs) **] will need new PCP on discharge.
   - Social work following, as patient with recent loss of health
   insurance.
   # FEN:  diabetic diet; IVF and electrolyte repletion as above
   - nutrition consult; patient will need extensive diet education
   ICU Care
   Nutrition: Diabetic Diet
   Glycemic Control:  45 units glargine at lunch, plus aggressive sliding
   scale
   Lines: No A-line
   18 Gauge - [**2117-1-2**] 08:24 AM
   20 Gauge - [**2117-1-2**] 08:25 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: None
   VAP:
   Comments: Bowel regimen with senna and colace prn
   Communication:  Comments: With patient and with girlfriend [**Name (NI) 12102**]
   [**0-0-**]
   Code status: Full code
   Disposition: To floor today

2117-01-04 11:39:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Eating. Appetite good. Denies thirst
   24 Hour Events:
 ARTERIAL LINE - STOP [**2117-1-3**] 10:04 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   Hives;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-1-4**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-1-4**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 92 (92 - 128) bpm
   BP: 125/77(88) {109/51(63) - 156/84(93)} mmHg
   RR: 15 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  4,643 mL
                                                                    960 mL
   PO:
                                                                  3,260 mL
                                                                    960 mL
   TF:
   IVF:
                                                                  1,383 mL
   Blood products:
   Total out:
                                                                  3,675 mL
                                                                  1,500 mL
   Urine:
                                                                  3,675 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    968 mL
                                                                   -540 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   13.4 g/dL
   180 K/uL
   167 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   3 mg/dL
   109 mEq/L
   140 mEq/L
   37.8 %
   7.1 K/uL
        [image002.jpg]
                            [**2117-1-2**]  06:55 AM
                            [**2117-1-2**]  09:41 AM
                            [**2117-1-2**]  01:40 PM
                            [**2117-1-2**]  03:10 PM
                            [**2117-1-2**]  06:47 PM
                            [**2117-1-2**]  11:55 PM
                            [**2117-1-3**]  03:57 AM
                            [**2117-1-3**]  12:00 PM
                            [**2117-1-4**]  12:04 AM
   WBC
   9.0
   7.1
   Hct
   38.4
   37.8
   Plt
   201
   180
   Cr
   0.9
   0.7
   0.7
   0.7
   0.6
   0.7
   0.7
   TropT
   <0.01
   TCO2
   14
   Glucose
   233
   230
   205
   182
   155
   117
   136
   167
   Other labs: PT / PTT / INR:12.3/21.1/1.0, CK / CKMB /
   Troponin-T:48/2/<0.01, ALT / AST:22/11, Alk Phos / T Bili:76/0.3,
   Amylase / Lipase:53/101, Albumin:3.7 g/dL, Ca++:8.9 mg/dL, Mg++:1.9
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 DIABETIC KETOACIDOSIS (DKA)
   Resolving DKA. Now receiving diabetic teaching. Spike in glu after meal
   this morning so will need better control with short acting. No signs of
   infection. Has advanced to full diet. Creat has returned to [**Location 810**].  HR
   remains sl elevated.
   ICU Care
   Nutrition:
   Comments: Diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2117-1-2**] 08:24 AM
   20 Gauge - [**2117-1-2**] 08:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes